US06235096B1
N-sec-butyl-3-toluidine
3-Toluidine (107.16 g), 2-butanone (72.11 g) and propionic acid (74.08 g) were stirred and cooled to 0° C. Sodium borohydride (37.83 g) was then added in portions keeping the temperature below 5° C. After allowing to warm to room temperature the reaction mixture was carefully poured onto ice/water. The product was extracted into ethyl acetate, washed with water, 2% hydrochloric acid and finally water again before drying over magnesium sulphate. Evaporation of the solvent under reduced pressure gave a brown oil which was purified by chromatography on silica gel.

reactant | 3-Toluidine | 107.16 g | NC1=CC(=CC=C1)C | C7H9N
reactant | propionic acid | 74.08 g | C(CC)(=O)O | C3H6O2
reactant | Sodium borohydride | 37.83 g | [BH4-].[Na+]
reactant | 2-butanone | 72.11 g | CC(CC)=O | C4H8O
product | N-sec-butyl-3-toluidine | C(C)(CC)NC1=CC(=CC=C1)C | C11H17N
